Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
fever, cough
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ w/ no significant PMH presented with fevers x 4 days with
productive cough. Patient has had persistent fevers as high as
104 at home. Cough is productive of yellow-green sputum. He also
endorses upset stomach with nausea. He has had a few episodes of
vomiting mucus like material but no large volume emesis. He
reports loose stools up to 6x per day but has been eating a
liquid diet since he does not feel well. Also reports pain in
back and body aches. Also had headache with mild photophobia 
that
is currently improved. Patient presented to urgent care on day
prior to presentation with a cc: fever and was prescribed
Augmentin (took first dose yesterday evening). Denies recent
travel hx, CP, tick bites, or sick contacts.

In the ED, initial VS were: 102.0 127 137/66 20 96% RA
Exam showed: bilateral coarse breath sounds, no nuchal rigidity. 

Labs showed: WBC 4.5 (87% PMNs), Hb 11.0, K 3.2, Na 131, Cr 1.0.
Trop negative. Lactate 1.7
Imaging showed: CXR w/ LLL PNA. 
Received: 3L NS, Zofran x1, Acetaminophen 1000mg x1, Ketorolac
15mg IV x1, Levofloxacin x1, Azithromycin x1. 
Transfer VS were: 97.5 110 118/66 24 95% RA.  
 
On arrival to the floor, patient reports the above history.
Denies SOB and states overall he is feeling better than prior to
presentation to ED. 
 
Past Medical History:
UVULA LESION S/P RESECTION IN ___
PUNCTURED EAR DRUM 
H/O UNDESCENDED TESTICLE 
 
Social History:
___
Family History:
Mother RECTAL CANCER 
Father NON-INSULIN DEPENDENT DIABETES MELLITUS 
MGF MYOCARDIAL INFARCTION 
PGF MYOCARDIAL INFARCTION 
MGM CORONARY ARTERY DISEASE
 
Physical Exam:
ADMISSION PHYSICAL EXAM
=================
VS:  100.5  120/67 120 18 94 RA 
GENERAL: NAD. Appears flushed with mild tachypnea. No increased
work of breathing. 
HEENT: EOMI, PERRL, anicteric sclera, pink conjunctiva, MMM
NECK: supple, no LAD, no JVD  
HEART: tachycardic RR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: Crackles at L lung posteriorly to mid lung field, clear 
to
auscultation on R. breathing comfortably without use of 
accessory
muscles  
ABDOMEN: nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing, or edema
PULSES: 2+ DP pulses bilaterally  
NEURO: A&Ox3, moving all 4 extremities with purpose  
SKIN: warm and well perfused, no excoriations or lesions, no
rashes  

DISCHARGE PHYSICAL EXAM
==================
Vitals: Tcurr 97.4 degrees F, Tmax 103.0 F, 115/72 mm Hg, 84 
BPM,
95% on RA
GEN: appears less sick today
CARDIO: RRR, normal S1 and S2, no adventitious sounds
PULM: right lung clear to auscultation. Bronchial breath sounds
over left lung fields posteriorly. 

 
Pertinent Results:
ADMISSION LABS
==========
___ 11:02PM BLOOD WBC-4.5 RBC-3.50* Hgb-11.0* Hct-31.1* 
MCV-89 MCH-31.4 MCHC-35.4 RDW-12.2 RDWSD-39.8 Plt Ct-80*
___ 11:02PM BLOOD Neuts-87* Bands-0 Lymphs-7* Monos-6 Eos-0 
Baso-0 ___ Myelos-0 AbsNeut-3.92 AbsLymp-0.32* 
AbsMono-0.27 AbsEos-0.00* AbsBaso-0.00*
___ 11:02PM BLOOD Plt Smr-LOW* Plt Ct-80*
___ 12:20AM BLOOD ___ PTT-28.8 ___
___ 11:02PM BLOOD Glucose-106* UreaN-15 Creat-1.0 Na-131* 
K-3.2* Cl-94* HCO3-21* AnGap-16
___ 12:20AM BLOOD ALT-25 AST-52* AlkPhos-68 TotBili-0.5
___ 12:20AM BLOOD Albumin-3.0*
___ 06:21AM BLOOD Calcium-7.6* Phos-3.3 Mg-1.6
___ 06:21AM BLOOD Hapto-408*
___ 04:30AM BLOOD HIV Ab-NEG
___ 12:40AM BLOOD Lactate-1.7

DISCHARGE LABS
==========
___ 04:30AM BLOOD WBC-6.5 RBC-3.88* Hgb-12.1* Hct-35.6* 
MCV-92 MCH-31.2 MCHC-34.0 RDW-13.0 RDWSD-43.5 Plt ___
___ 04:30AM BLOOD ___ PTT-31.0 ___
___ 04:30AM BLOOD Glucose-103* UreaN-7 Creat-0.8 Na-140 
K-3.6 Cl-98 HCO3-27 AnGap-15
___ 04:30AM BLOOD Albumin-3.1* Calcium-8.5 Phos-3.4 Mg-1.9

STUDIES
======
___ CXR
Large area of left lower lobe consolidation is worrisome for 
pneumonia.  There
may be a trace left pleural effusion.  The right lung is clear.  
No right
pleural effusion is seen.  No pneumothorax is seen.  Cardiac 
silhouette size
is top-normal.  Mediastinal contours are unremarkable.
 
IMPRESSION: 
Large area of left lower lobe consolidation, worrisome for 
pneumonia.

MICROBIOLOGY
=========
Legionella Urinary Antigen  (Final ___: 
      Reported to and read back by ___. ___ ON ___ AT 
0700. 
      PRESUMPTIVE POSITIVE FOR LEGIONELLA SEROGROUP 1 ANTIGEN. 
 
Brief Hospital Course:
___ w/ no significant PMH presented for evaluation of fevers x 4 
days with cough, SOB, nausea/vomiting and diarrhea. 

# Legionella pneumophila pneumonia
Mr. ___ was found to have a left lower lobe infiltrate on chest 
x-ray and was admitted to the hospital for pneumonia. He was 
empirically started on ceftriaxone and azithromycin. He was 
found to have borderline low normal oxygen saturation on 
hospital day 1 and was on up to 2 liter/min of oxygen via nasal 
cannula. His urine tested positive for Legionella pneumophila. 
Ceftriaxone was stopped and the patient continued on monotherapy 
with azithromycin. The clinical state had significantly improved 
by hospital day 2 and the patient was discharged home. 
Azithromycin 500 mg PO daily needs to be continued until ___, for total ___nemia and thrombocytopenia 
Patient initially presented with thrombocytopenia and normocytic 
anemia with a Hb down to 11.4 and platelets down to 99. The Hb 
and thrombocytopenia resolved with treatment of Legionella 
pneumonia. 

#Hyponatremia
The patient was found to have mild hyponatremia (131) on 
admission. A multifactorial etiology seems most likely 
(decreased effective arterial volume from volume depletion, 
nausea, Legionella pneumonia). The serum sodium normalized with 
fluid administration, treatment of nausea and appropriate 
treatment of the Legionella pneumophila pneumonia. 

#Hypokalemia
A mild hypokalemia (3.2) resolved with potassium repletion. 

Transitional Issues
====================
[] Recheck CBC at PCP visit to monitor for resolution of 
thrombocytopenia and anemia
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Azithromycin 500 mg PO Q24H Duration: 8 Doses 
RX *azithromycin 500 mg 1 tablet(s) by mouth daily Disp #*8 
Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
Legionella pneumophila pneumonia

Secondary Diagnosis:
Hyponatremia
Hypokalemia
Anemia
Thrombocytopenia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You presented to the hospital for fever and coughing for several 
days. You also had experienced nausea, vomiting and diarrhea. 
You were diagnosed with a pneumonia, an infection of your lungs, 
and we started you on antibiotics called ceftriaxone and 
azithromycin and you felt better. By testing your urine we were 
able to find out that the bacterium causing your pneumonia is 
Legionella pneumophila. We stopped treating you with ceftriaxone 
as it is not effective against this bacterim. We continued you 
on azithromycin. You must take azithromycin as prescribed for a 
total of 10 days until ___. 

 
Followup Instructions:
___